US07709645B2
3-(2-Methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (156 mg, 0.350 mmol) was dissolved in methanol (1.0 mL) and dimethylformamide (1.0 mL) and 50% w/v aqueous potassium hydroxide (1.0 mL) was added. After 4 hours, the reaction was quenched by addition of acetic acid (1.0 mL). The mixture was carefully poured into saturated sodium bicarbonate and extracted with ethyl acetate. The organic layers were dried over sodium sulfate, filtered and dried to a residue which was purified by preparative HPLC to afford 3-(2-methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine (18.9 mg, 18.6%). 1H-NMR (500 MHz, dimethylsulfoxide-d6) δ 3.78 (s, 3H), 6.69 (d, J=2.0 Hz, 1H), 6.99 (dt, J=7.0, J=0.5 Hz, 1H), 7.06 (d, J=7.5 Hz, 1H), 7.23 (dt, J=7.0, J=1.5 Hz, 1H), 7.50 (dd, J=7.5, J=1.5 Hz, 1H), 7.63 (d, J=2.5 Hz, 1H), 7.65 (br s, 1H), 8.29 (d, J=2.0 Hz, 1H), 8.63 (br s, 1H), 11.82 (s, 1H). MS: m/z 291 (M+H+).

reactant | 3-(2-Methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.350 mmol, 156 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=NNC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H20N4O3S
reactant | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 1.0 mL | [OH-].[K+]
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-(2-methoxy-phenyl)-5-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-b]pyridine | 18.9 mg, 18.6% | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C2=NNC=C2 | C17H14N4O
